US04038396
2-Amino-5-chloropyridine (12.8 g., 0.1 mole) was added to 50 ml. of concentrated sulfuric acid. To this was slowly added with stirring 25 ml. of concentrated nitric acid. After the exothermic reaction subsided, the mixture was cooled and poured onto ice. The precipitate was collected and added to a mixture of 12 ml. of concentrated sulfuric acid and 150 ml. of water. To this solution cooled to 0° C., was added 7 g. of sodium nitrite portionwise and the resulting mixture was allowed to warm spontaneously to room temperature. After cooling the precipitate was collected and recrystallized from dimethyl formamideethanol to give 5-chloro-3-nitro-2-pyridone, m.p. 225-227°.

reactant | 2-Amino-5-chloropyridine | 0.1 mole, 12.8 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 5-chloro-3-nitro-2-pyridone | ClC=1C=C(C(NC1)=O)[N+](=O)[O-] | C5H3ClN2O3
